US07781598B2
Water (4.5 ml), potassium carbonate (25.9 g, 187 mmol) and ethyl bromoacetate (20.8 ml, 188 mmol) were added sequentially to a suspension of 2-methyl-4-nitro-1H-indole (30 g, 170 mmol) in acetonitrile (225 ml) and the mixture heated at 60° C. for 16 hours. After allowing to cool to ambient temperature, water (225 ml) was added and the resulting mixture was broken up and then filtered. The solid was washed with water (2×75 ml), followed by IMS (2×75 ml) then dried in a vacuum oven to give (4-nitro-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester, 32.15 g (72%).

reactant | Water | 4.5 ml | O | H2O
reactant | potassium carbonate | 187 mmol, 25.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 188 mmol, 20.8 ml | BrCC(=O)OCC | C4H7BrO2
reactant | 2-methyl-4-nitro-1H-indole | 170 mmol, 30 g | CC=1NC2=CC=CC(=C2C1)[N+](=O)[O-] | C9H8N2O2
reactant | water | 225 ml | O | H2O
solvent | acetonitrile | 225 ml | C(C)#N | C2H3N
product | (4-nitro-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester | [N+](=O)([O-])C1=C2C=C(N(C2=CC=C1)CC(=O)OCC)C | C13H14N2O4
